US07772271B2
Preparation of [4-(3-cyano-1-cyclobutyl-6-(2-methoxyethoxy)-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester (compound 1423)
To a solution of 2-(4-aminophenyl)-1-cyclobutyl-6-(2-methoxy-ethoxy)-1H-indole-3-carbonitrile (76.0 mg, 0.21 mmol), pyridine (36.5 mg, 0.46 mmol) in 10 mL of 1,1 dichloroethane is added 4-nitrophenyl chloroformate (93.2 mg, 0.46 mmol). The resulting mixture is stirred at room temperature for 2 h. Then α-methylcyclopropane methanol (54.3 mg, 0.63 mmol) is added. The reaction mixture is heated to 70° C. for 5 h. After cooling, the reaction is partitioned between ethyl acetate (10 mL) and saturated K2CO3 (10 mL). The organic phase is washed with additional saturated K2CO3 (2×10 mL), water, and saturated NaCl. The colorless solution is dried over MgSO4, filtered and evaporated. The remaining solid is washed with diethyl ether to yield the title compound, of [4-(3-cyano-1-cyclobutyl-6-(2-methoxyethoxy)-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester (compound 1423) as a white solid.

reactant | 2-(4-aminophenyl)-1-cyclobutyl-6-(2-methoxy-ethoxy)-1H-indole-3-carbonitrile | 0.21 mmol, 76.0 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCCOC)C1CCC1 | C22H23N3O2
reactant | pyridine | 0.46 mmol, 36.5 mg | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 0.46 mmol, 93.2 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | α-methylcyclopropane methanol | 0.63 mmol, 54.3 mg | CC(O)C1CC1 | C5H10O
solvent | 1,1 dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | [4-(3-cyano-1-cyclobutyl-6-(2-methoxyethoxy)-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester | C1(CC1)C(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCCOC)C1CCC1)=O | C28H31N3O4
